US06403595B1
To a solution of 4-(tert-butoxycarbonyl)-2-piperazinone (600 mg) in DMF (9 ml) was added sodium hydride in oil (120 mg), and the mixture was stirred at room temperature for 1 hour. To the mixture was added dropwise a solution of 4-nitrobenzyl bromide (648 mg) in THF (5 ml) at 0° C., and the mixture was stirred for 30 minutes. The reaction solution was diluted with water, extracted with ethyl acetate, washed with water and brine, dried and concentrated, and the residue was crystallized from diisopropylether to give colorless crystals of 4-(tert-butoxycarbonyl)-1-(4-nitrobenzyl)-2-piperazinone (755 mg).

reactant | 4-(tert-butoxycarbonyl)-2-piperazinone | 600 mg | C(C)(C)(C)OC(=O)N1CC(NCC1)=O | C9H16N2O3
reactant | sodium hydride | [H-].[Na+]
reactant | 4-nitrobenzyl bromide | 648 mg | [N+](=O)([O-])C1=CC=C(CBr)C=C1 | C7H6BrNO2
solvent | DMF | 9 ml | CN(C)C=O | C3H7NO
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | 4-(tert-butoxycarbonyl)-1-(4-nitrobenzyl)-2-piperazinone | 755 mg | C(C)(C)(C)OC(=O)N1CC(N(CC1)CC1=CC=C(C=C1)[N+](=O)[O-])=O | C16H21N3O5
